US08420823B2
3-{[(2-Methoxyphenyl)amino]carbonyl}benzenesulfonyl chloride
The entitled compound was produced according to the method of Reference Example 1 but using 2-methoxyaniline and 3-(chlorosulfonyl)benzoyl chloride as the starting materials.

reactant | 2-methoxyaniline | COC1=C(N)C=CC=C1 | C7H9NO
reactant | 3-(chlorosulfonyl)benzoyl chloride | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
product | 3-{[(2-Methoxyphenyl)amino]carbonyl}benzenesulfonyl chloride | COC1=C(C=CC=C1)NC(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C14H12ClNO4S
